US08080552B2
A solution of 1.00 g (3.08 mmol) 3-[4-(2-chloro-4-nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in a mixture of 30 ml ethyl acetate was hydrogenated over 200 mg palladium on barium sulphate for 10 h. The catalyst was filtered off and the filtrate evaporated. The obtained oil was dissolved in ethyl acetate and purified by chromatography on silica (ethyl acetate) to give 510 mg (56%) of 3-[4-(4-amino-2-chloro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol as colorless oil.

reactant | 3-[4-(2-chloro-4-nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 3.08 mmol, 1.00 g | ClC1=C(OC2=NC(=NC=C2)NCCCO)C=CC(=C1)[N+](=O)[O-] | C13H13ClN4O4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 200 mg | [Pd] | Pd
product | 3-[4-(4-amino-2-chloro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 510 mg, 56% | NC1=CC(=C(OC2=NC(=NC=C2)NCCCO)C=C1)Cl | C13H15ClN4O2
